US08242282B2
(iv) Synthesis of (R)-4-(4-(3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanamido)phenyl)butanoic acid
A mixture of methyl 4-(4-(3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanamido)phenyl)butanoate (0.59 g, 1.07 mmol) and lithium hydroxide (0.26 g, 10.7 mmol) in 10 mL THF/H2O (1:1) was heated at 60° C. for 2 h (monitored by TLC). The solution was acidified to PH=2 and extracted with dichloromethane. The dichloromethane was separated, dried over magnesium sulfate, and concentrated in vacao to give 0.51 g of the desired compound (90%): (400 MHz in CDCl3, Bruker AVANCE-400): δ 1.30 (s, 9H, Boc), 1.74 (m, 2H, CH2), 2.17 (t, 2H, CH2—CH2—COOMe, J=7.34 Hz), 2.52 (t, 2H, CH2, J=7.55 Hz), 2.92-3.07 (m, 2H, CH2), 4.44 (m, 1H CH), 5.13 (s, 2H OBn), 7.09 (d, 1H, J=8.47 Hz, Ar—H), 7.21 (d, 1H, Ar—H, J=8.52 Hz), 7.31˜7.48 (m, 9H Ar—H), 8.26 (br, 1H, NH), 9.91 (br, 1H, OH).

reactant | methyl 4-(4-(3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanamido)phenyl)butanoate | 1.07 mmol, 0.59 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(C(=O)NC1=CC=C(C=C1)CCCC(=O)OC)NC(=O)OC(C)(C)C | C31H37N3O6
reactant | lithium hydroxide | 10.7 mmol, 0.26 g | [OH-].[Li+]
solvent | THF H2O | 10 mL | C1CCOC1.O
product | (R)-4-(4-(3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanamido)phenyl)butanoic acid | 0.51 g, 90% | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C[C@H](C(=O)NC1=CC=C(C=C1)CCCC(=O)O)NC(=O)OC(C)(C)C | C30H35N3O6
